US07511065B2
7-Bromo-4-methylquinoline
H2SO4 (14.4 mL, 270 mmol) is added to a solution of 3-bromoaniline (Aldrich, 30.0 g, 174 mmol) in 1,4-dioxane (1 L) at RT. The mixture is heated to reflux and treated with methyl vinyl ketone (Aldrich, 19.5 mL, 270 mmol) in 1,4-dioxane (50 mL) dropwise over 3 h. Heating is continued for 1 h after the addition, followed by removal of the solvent in vacuo. The residue is dissolved in water (100 mL), neutralized with Na2CO3 and extracted with CH2Cl2. The combined organic extracts are washed with water and brine, dried (Na2SO4) and filtered. The filtrate is concentrated, and the residue chromatographed on silica gel (Biotage, eluting with 20% EtOAc/Hexanes) to give the title compound, 15.0 g (43%), as a brownish solid.

reactant | H2SO4 | 270 mmol, 14.4 mL | OS(=O)(=O)O | H2O4S
reactant | 3-bromoaniline | 174 mmol, 30.0 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | methyl vinyl ketone | 270 mmol, 19.5 mL | C(=C)C(=O)C | C4H6O
solvent | 1,4-dioxane | 1 L | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 7-Bromo-4-methylquinoline | BrC1=CC=C2C(=CC=NC2=C1)C | C10H8BrN
